US07592358B2
1.1 a. 2-(4-iodo-2-methylphenoxy)ethanol
Under a nitrogen atmosphere, 2.34 g (10 mmol) of 4-iodo-2-methylphenol was added batchwise to a suspension of 0.48 g (11 mmol) of NaH in 50 mL of THF cooled to 0° C. and the mixture was stirred for a further 30 minutes at this temperature. Then 0.85 mL (12 mmol) of 2-bromoethanol dissolved in 5 mL of THF was added dropwise and the mixture was stirred for 18 hours at RT. 5 mL of DMF was added and the reaction mixture was heated to 70° C. for 8 hours. It was evaporated down in vacuo, the residue was taken up in water, extracted exhaustively with EtOAc and dried over sodium sulfate. After the desiccant and solvent had been eliminated, the residue was purified by chromatography on silica gel (cyc/EtOAc 7:3). Yield: 0.39 g (14% of theoretical); C9H11IO2 (M=278.091); calc.: molpeak (M+H)+: 279; found: molpeak (M+H)+: 279; Rf value: 0.28 (silica gel, cyc/EtOAc 2:1).

reactant | 4-iodo-2-methylphenol | 10 mmol, 2.34 g | IC1=CC(=C(C=C1)O)C | C7H7IO
reactant | NaH | 11 mmol, 0.48 g | [H-].[Na+]
reactant | 2-bromoethanol | 12 mmol, 0.85 mL | BrCCO | C2H5BrO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-iodo-2-methylphenoxy)ethanol | IC1=CC(=C(OCCO)C=C1)C | C9H11IO2
